US05650533
A mixture of 2-[4-chloro-3-methoxy-2-(methylsulphenyl)-phenyl]-4,4-dimethyloxazoline (9.0 g) and hydrochloric acid (5M) was stirred and heated at reflux for 5 hours. After cooling the mixture was diluted with water and extracted with dichloromethane. It was dried (MgSO4), filtered and the filtrate was evaporated to dryness to give 4-chloro-3-methoxy-2-(methylsulphenyl) benzoic acid as a white solid, m.p. 98°-99° C.

reactant | 2-[4-chloro-3-methoxy-2-(methylsulphenyl)-phenyl]-4,4-dimethyloxazoline | 9.0 g | ClC1=C(C(=C(C=C1)C=1OCC(N1)(C)C)SC)OC | C13H16ClNO2S
reactant | hydrochloric acid | 5M | Cl | ClH
reactant | water | O | H2O
product | 4-chloro-3-methoxy-2-(methylsulphenyl) benzoic acid | ClC1=C(C(=C(C(=O)O)C=C1)SC)OC | C9H9ClO3S
